US05248447
0.1 mol of 4-hexyloxybenzoic acid, 0.01 mol of dimethylaminopyridine and 0.1 mol of 2,3-difluoro-4octyloxyphenol (preparable from 2,3-difluorooctyloxybenzene by lithiation at -70° to -80° and dropwise addition of a solution of lithium t-butylperoxide in ether prepared from 0.12 mol of t-butyl hydroperoxide and 0.12 mol of butyllithium) are introduced into 150 ml of dichloromethane, a solution of 0.1 mol of dicyclohexylcarbodiimide in 30 ml of dichloromethane is added dropwise with stirring at 10o, and the mixture is subsequently stirred at room temperature for 15 hours. The mixture is filtered through silica gel, the solvent is evaporated, and 2,3-difluoro-4-octyloxyphenyl 4-hexyloxybenzoate is obtained as the residue.

reactant | 4-hexyloxybenzoic acid | 0.1 mol | C(CCCCC)OC1=CC=C(C(=O)O)C=C1 | C13H18O3
reactant | dimethylaminopyridine | 0.01 mol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,3-difluoro-4octyloxyphenol | 0.1 mol | FC1=C(C=CC(=C1F)OCCCCCCCC)O | C14H20F2O2
reactant | 2,3-difluorooctyloxybenzene | FC(COC1=CC=CC=C1)C(CCCCC)F | C14H20F2O
reactant | lithium t-butylperoxide | C(C)(C)(C)OOC(C)(C)C.[Li]
reactant | t-butyl hydroperoxide | 0.12 mol | C(C)(C)(C)OO | C4H10O2
reactant | butyllithium | 0.12 mol | C(CCC)[Li]
reactant | dicyclohexylcarbodiimide | 0.1 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2,3-difluoro-4-octyloxyphenyl 4-hexyloxybenzoate | C(CCCCC)OC1=CC=C(C(=O)OC2=C(C(=C(C=C2)OCCCCCCCC)F)F)C=C1 | C27H36F2O4
